US08710245B2
(f) Synthesis of 8-phenyl-1,2,3,4-tetrahydrodibenzo[b,d]thiophen-4-amine
To a solution of 8-phenyl-2,3-dihydrodibenzo[b,d]thiophen-4(1H)-one (0.28 g, 1.0 mmol, 1 eq), ammonium acetate (0.77 g, 10 eq) in MeOH (20 mL) was added NaBH3CN (160 mg, 2.5 eq) in one portion. The reaction mixture was heated to 50° C. and stirred for 20 h, After that the solvent was removed, diluted with saturated NaHCO3 and extracted with ethyl acetate (3×50 mL). The combined organic layers were dried over Na2SO4. After filtration and concentration, the residue was purified by silica gel chromatography to give the title compound (64 mg, 23%).

reactant | 8-phenyl-2,3-dihydrodibenzo[b,d]thiophen-4(1H)-one | 1.0 mmol, 0.28 g, 1 eq | C1(=CC=CC=C1)C=1C=CC2=C(C3=C(S2)C(CCC3)=O)C1 | C18H14OS
reactant | ammonium acetate | 0.77 g, 10 eq | C(C)(=O)[O-].[NH4+]
reactant | NaBH3CN | 160 mg, 2.5 eq | [BH3-]C#N.[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | 8-phenyl-1,2,3,4-tetrahydrodibenzo[b,d]thiophen-4-amine | 64 mg, 23% | C1(=CC=CC=C1)C=1C=CC2=C(C3=C(S2)C(CCC3)N)C1 | C18H17NS
